US05763481
2-(4-Chloro-4,4-difluoro-but-1-yl)malonic acid diethyl ester
65.9 g of 2-(2-bromo-4-chloro-4,4-difluoro-but-1-yl)malonic acid diethyl ester, 600 ml of ethanol, 14.8 g of sodium acetate and 6.6 g of 5% palladium on activated carbon are treated with hydrogen at from 20° to 25° and under normal pressure until the absorption of hydrogen can no longer be detected. The reaction mixture is filtered over silica gel and then concentrated to dryness by evaporation in a rotary evaporator. The residue is taken up in 500 ml of n-hexane, the solution is filtered and the hexane phase is again concentrated to dryness by evaporation. The title compound is obtained in the form of a colourless oil.

reactant | 2-(2-bromo-4-chloro-4,4-difluoro-but-1-yl)malonic acid diethyl ester | 65.9 g | C(C)OC(C(C(=O)OCC)CC(CC(F)(F)Cl)Br)=O | C11H16BrClF2O4
reactant | sodium acetate | 14.8 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 6.6 g | [Pd] | Pd
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 2-(4-Chloro-4,4-difluoro-but-1-yl)malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)CCCC(F)(F)Cl)=O | C11H17ClF2O4
